US07700641B2
Synthesis of methyl 2-[(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)methyl]benzoate
Following the procedure as described in EXAMPLE 1, and making non-critical variations using methyl 2-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate to replace 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained as a white powder in 74% yield: mp 166-167° C.; 1H NMR (300 MHz, CDCl3) δ 8.05 (m, 1H), 7.44 (m, 1H), 7.34 (t, 1H), 7.22-7.10 (m, 3H), 7.03 (m, 1H), 6.70 (d, 1H), 6.52 (s, 1H), 6.21 (s, 1H), 5.90-5.84 (m, 2H), 5.52-5.33 (m, 2H), 4.99 (d, 1H), 4.72 (d, 1H), 3.95 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 177.8, 167.5, 156.0, 148.9, 142.4, 142.3, 137.4, 132.8, 132.1, 131.4, 129.0, 128.6, 127.4, 126.5, 123.9, 123.6, 119.4, 109.5, 103.1, 101.5, 93.7, 80.7, 58.4, 52.3, 42.4; MS (ES+) m/z 430.3 (M+1), 452.3 (M+23).

reactant | methyl 2-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate | OC=1C(=CC2=C(OCO2)C1)C1(C(N(C2=CC=CC=C12)CC1=C(C(=O)OC)C=CC=C1)=O)CO | C25H21NO7
reactant | 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O | C21H21NO5
product | methyl 2-[(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)methyl]benzoate | 74% yield | O=C1N(C2=CC=CC=C2C12COC=1C2=CC2=C(OCO2)C1)CC1=C(C(=O)OC)C=CC=C1 | C25H19NO6
